simulator lang=spectre
global 0

ahdl_include "./dut/sarfend_logic_4b.va"

Vclks (clks 0) vsource type=pwl wave=[0 0 1n 0 1.05n 1 1.45n 1 1.50n 0 8n 0 8.05n 1 8.45n 1 8.50n 0]
Vdcomp (dcomp 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 1 2.45n 1 2.50n 0 4.0n 0 4.05n 0 4.45n 0 4.50n 0 6.0n 0 6.05n 1 6.45n 1 6.50n 0]
Vdcompb (dcompb 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 0 2.45n 0 2.50n 0 4.0n 0 4.05n 1 4.45n 1 4.50n 0 6.0n 0 6.05n 0 6.45n 0 6.50n 0]
Vtest (test 0) vsource dc=0
Vdtest0 (dtest0 0) vsource dc=0
Vdtest1 (dtest1 0) vsource dc=1
Vdtest2 (dtest2 0) vsource dc=0
Vdtest3 (dtest3 0) vsource dc=1
XDUT (clks dcomp dcompb test dtest0 dtest1 dtest2 dtest3 clkc dp1 dp2 dp3 dp4 dm1 dm2 dm3 dm4 dout0 dout1 dout2 dout3) sarfend_logic_4b

simulatorOptions options evas_profile=balanced

tran tran stop=5n maxstep=10p
save clkc clks dcomp dcompb dm1 dm2 dm3 dm4 dout0 dout1 dout2 dout3 dp1 dp2 dp3 dp4 dtest0 dtest1 dtest2 dtest3 test
